US05665718
13.46 g (50 mmol) of (S)-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]-benzodiazepine-1-carboxylic acid were dissolved in 40 ml of N,N-dimethylformamide, treated portionwise with 10 g (61.7 mmol) of 1,1'-carbonyldiimidazole and stirred at 55° for 30 min. After adding 12.06 g (55 mmol) of phthaloylglycine amidoxime the mixture was stirred at 85 °for 2 hours. 10 ml of trifluoroacetic acid were added and the mixture was stirred at 85 °overnight. The reaction mixture was cooled to 10 °and the crystals were filtered off. After recrystallization from methanol there were obtained 9.16 g (40%) of (S)-12,12a-dihydro-1-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]-benzodiazepin-9-one of m.p. 290°-292°.

reactant | (S)-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]-benzodiazepine-1-carboxylic acid | 50 mmol, 13.46 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)O)CC2 | C14H11N3O3
reactant | 1,1'-carbonyldiimidazole | 61.7 mmol, 10 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (S)-12,12a-dihydro-1-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]-benzodiazepin-9-one | 9.16 g, 40% | C1(C=2C(C(N1CC1=NOC(=N1)C=1N=CN3C1[C@H]1N(C(C4=C3C=CC=C4)=O)CC1)=O)=CC=CC2)=O | C24H16N6O4
